US06090825
B. 2-Amino-3-(2,4-difluoro-phenyl)-3-oxo-propionic acid methyl ester, hydrochloride
To a 1 liter three neck round bottom flash equipped with mechanical stirrer and reflux condensor is added 5-(2,4-Difluoro-phenyl)-oxazole-4-carboxylic acid methyl ester (30.66 g, 128 mmole), 200 mL of 2 normal hydrogen chloride in methanol, and 200 mL of dry methanol under nitrogen. The mixture is stirred and heated to 60° C. for three hours. The reaction is cooled and concentrated to a thick slurry. The slurry is treated with 100 mls of dry methanol and 400 mL of diethyl ether to precipitate solids. The solids are collected by vacum filtration and washed thoroughly with diethyl ether and air dried to yield the title compound.

reactant | 5-(2,4-Difluoro-phenyl)-oxazole-4-carboxylic acid methyl ester | 128 mmole, 30.66 g | COC(=O)C=1N=COC1C1=C(C=C(C=C1)F)F | C11H7F2NO3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 2-Amino-3-(2,4-difluoro-phenyl)-3-oxo-propionic acid methyl ester, hydrochloride | Cl.COC(C(C(=O)C1=C(C=C(C=C1)F)F)N)=O | InChI=1S/C10H9F2NO3.ClH/c1-16-10(15)8(13)9(14)6-3-2-5(11)4-7(6)12;/h2-4,8H,13H2,1H3;1H
